US05380735
Synthesis of 2,4-dibromo-6-methylbenzothiazole
4.7 g of 2-amino-4-bromo-6-methylbenzothiazole, 14 ml of 48% bromic acid solution and 10 g of bromine were introduced into a reaction vessel while keeping the temperature at 10° C. To this mixture was slowly added dropwise 10 ml of aqueous solution containing 3.5 g of sodium nitrite at 0° C. and the whole mixture was stirred for 2 hours. Then, 15 ml of 40% sodium hydroxide solution was slowly added dropwise while keeping the temperature below 20° C. and the reaction mixture was stirred for one hour and extracted with diethyl ether. The extract was dried with anhydrous sodium sulfate and evaporated to obtain the title compound in the form of transparent liquid (Yield: 91%).

reactant | 2-amino-4-bromo-6-methylbenzothiazole | 4.7 g | NC=1SC2=C(N1)C(=CC(=C2)C)Br | C8H7BrN2S
reactant | bromic acid | 14 ml | Br(=O)(=O)O | BrHO3
reactant | bromine | 10 g | BrBr | Br2
reactant | sodium nitrite | 3.5 g | N(=O)[O-].[Na+]
reactant | sodium hydroxide | 15 ml | [OH-].[Na+]
product | 2,4-dibromo-6-methylbenzothiazole | BrC=1SC2=C(N1)C(=CC(=C2)C)Br | C8H5Br2NS
